US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-[methoxy(methyl)carbamoyl]piperidine-1-carboxylate
(3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid (7.5 g), WSC.HCL (4.06 g) and HOBt (3.25 g) were dissolved in DMF (50 ml), N-methoxymethylamine hydrochloride (1.38 g) and triethylamine (7.88 ml) were added and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:4-9:1) was concentrated under reduced pressure to give the object product (4.76 g).

reactant | (3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 7.5 g | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)O | C28H42N4O6
reactant | WSC | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 3.25 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methoxymethylamine hydrochloride | 1.38 g | Cl.COCN
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 7.88 ml | C(C)N(CC)CC | C6H15N
product | Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-[methoxy(methyl)carbamoyl]piperidine-1-carboxylate | 4.76 g | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(N(C)OC)=O)C(=O)OC(C)(C)C)CC(C)C | C30H47N5O6
